US07582773B2
Step 4: Synthesis of [4-(1-Methyl-3-pentyl-2-phenyl-1H-indol-5-yl)-phenoxy]-acetonitrile.
The desired product was prepared using a procedure similar to step 5 of example 3. Thus, 4-(1-methyl-3-pentyl-2-phenyl-1H-indol-5-yl)-phenol (0.173 g, 0.472 mmol) was reacted with K2CO3 (0.078 g, 0.566 mmol) and bromoacetonitrile (0.068 g, 0.566 mmol) in acetone (10 ml) to give the product (0.160 g, 0.392 mmol, 83%) as a white solid, mp 101-102° C. 1H NMR (DMSO-d6) δ 0.76 (t, J=7.0 Hz, 3H), 1.14-1.22 (m, 4H), 1.52-1.98 (m, 2H), 2.66 (t, J=7.5 Hz, 2H), 3.56 (s, 3H), 5.21 (s, 2H), 7.16 (d, J=8.9 Hz, 2H), 7.43-7.51 (m, 5H), 7.55 (t, J=7.2 Hz, 2H), 7.69 (d, J=8.9 Hz, 2H), 7.76 (d, J=1.1 Hz, 1H); [ESI(+)], m/z 409 (M+H)+.

reactant | 4-(1-methyl-3-pentyl-2-phenyl-1H-indol-5-yl)-phenol | 0.472 mmol, 0.173 g | CN1C(=C(C2=CC(=CC=C12)C1=CC=C(C=C1)O)CCCCC)C1=CC=CC=C1 | C26H27NO
reactant | K2CO3 | 0.566 mmol, 0.078 g | C(=O)([O-])[O-].[K+].[K+]
reactant | bromoacetonitrile | 0.566 mmol, 0.068 g | BrCC#N | C2H2BrN
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | [4-(1-Methyl-3-pentyl-2-phenyl-1H-indol-5-yl)-phenoxy]-acetonitrile | CN1C(=C(C2=CC(=CC=C12)C1=CC=C(OCC#N)C=C1)CCCCC)C1=CC=CC=C1 | C28H28N2O
